US04278680
The ethyl 4-(2-aminoethyl)-phenylacetate hydrochloride used as starting material is prepared in the following manner: 4-(2-acetamidoethyl)-acetophenone is reacted with morpholine and sulfur to give the thiomorpholide of 4-(2-acetamidoethyl)-phenylacetic acid (m.p. 117°-118° C.). Subsequent alkaline saponification, followed by esterification with ethanolic hydrochloric acid, gives ethyl 4-(2-aminoethyl)-phenylacetate hydrochloride; m.p. 177°-178° C., after recrystallization from ethanol.

reactant | ethyl 4-(2-aminoethyl)-phenylacetate hydrochloride | Cl.NCCC1=CC=C(C=C1)CC(=O)OCC
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | sulfur | [S] | S
product | 4-(2-acetamidoethyl)-phenylacetic acid | C(C)(=O)NCCC1=CC=C(C=C1)CC(=O)O | C12H15NO3
